US20010020024A1
(ii) 4-{N-[2-(3-(S)-Methoxymethoxypyrrolidin-1-yl)-1 -(S)-phenylethyl]-N-methylamino}benzoic acid
A mixture of methyl 4-{N-[2-(3-(S)-methoxymethoxypyrrolidin-1-yl)-1-(S)-phenylethyl]-N-methylamino}benzoate (1.99 g, 5.00 mmol) and 4N-NaOH (12.5-ml, 50.0 mmol) in MeOH (35 ml) was stirred at 75° C. for 3 h. The mixture was neutralized with 5N-HCl at 0° C. The solvent was removed in vacuo. CH2Cl2 was added to the residue and insoluble solid was removed by filtration. The filtrate was concentrated to give 2.04 g (quant) of pale brown amorphous.

reactant | methyl 4-{N-[2-(3-(S)-methoxymethoxypyrrolidin-1-yl)-1-(S)-phenylethyl]-N-methylamino}benzoate | 5.00 mmol, 1.99 g | COCO[C@@H]1CN(CC1)C[C@H](C1=CC=CC=C1)N(C)C1=CC=C(C(=O)OC)C=C1 | C23H30N2O4
reactant | NaOH | 50.0 mmol, 12.5-ml | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | MeOH | 35 ml | CO | CH4O
product | 4-{N-[2-(3-(S)-Methoxymethoxypyrrolidin-1-yl)-1 -(S)-phenylethyl]-N-methylamino}benzoic acid | COCO[C@@H]1CN(CC1)C[C@H](C1=CC=CC=C1)N(C)C1=CC=C(C(=O)O)C=C1 | C22H28N2O4
